.SUBCKT NAND4BBX4H7R AN BN C D VDD VSS Y
*.PININFO AN:I BN:I C:I D:I Y:O VDD:B VSS:B
MMN4 net7 net39 net32 VSS nm1p2_svt_lp W=600n L=60n m=1
MMN5 net32 net42 VSS VSS nm1p2_svt_lp W=600n L=60n m=1
MMN3 net10 C net7 VSS nm1p2_svt_lp W=600n L=60n m=1
MMN0 Y D net10 VSS nm1p2_svt_lp W=600n L=60n m=1
MMP3 Y net42 VDD VDD pm1p2_svt_lp W=760n L=60n m=1
MMP2 Y D VDD VDD pm1p2_svt_lp W=760n L=60n m=1
MMP1 Y C VDD VDD pm1p2_svt_lp W=760n L=60n m=1
MMP0 Y net39 VDD VDD pm1p2_svt_lp W=760n L=60n m=1
XXI5 BN VDD VSS net39 / INV pl=6e-08 pw=3.1e-07 nl=6e-08 nw=2.5e-07
XXI6 AN VDD VSS net42 / INV pl=6e-08 pw=3.1e-07 nl=6e-08 nw=2.5e-07
.ENDS
